US09035049B2
Preparation of 2-(6-Methyl-3-oxo-2-phenyl-2,3-dihydropyridazine-4-carbonyl)-cyclohexane-1,3-dione (Compound 1.2)
6-Methyl-3-oxo-2-phenyl-2,3-dihydropyridazine-4-carboxylic acid (0.56 g, 2.42 mmol) was stirred in anhydrous dichloromethane (13 ml) and 1 drop of anhydrous dimethylformamide was added. Oxalyl chloride (0.25 mL, 2.90 mmol) was added dropwise to the yellow solution. After 1.5 h the reaction was concentrated in vacuo. The residue obtained was dissolved in dichloromethane (20 ml). To the brown solution anhydrous triethylamine (1 ml), then cyclohexanedione (0.33 g, 2.90 mmol) was added, producing a reddish solution. A further 0.33 ml of anhydrous triethylamine was added. The reaction mixture was stirred at room temperature for 2 h (reaction monitored by LCMS), then acetone cyanohydrin (1 drop) and anhydrous triethylamine (0.67 ml) was added and the reaction was stirred overnight. LCMS indicated the desired product had been formed. The reaction mixture was concentrated in vacuo. The residue obtained was purified using column chromatography (SiO2, Toluene/Triethylamine/Dioxane/EtOH/Water 100:40:20:20:5 by volume) to afford the title compound as an orange oil (382 mg, 49%). 1H NMR (CDCl3) 2.05 (quin, 2H), 2.41 (m, 3H), 2.47 (br s, 2H), 2.73 (br s, 2H), 7.10 (s, 1H), 7.36 (m, 1H), 7.46 (m, 2H), 7.57 (m, 2H), 16.15 (br s, 1H) ppm.

reactant | 6-Methyl-3-oxo-2-phenyl-2,3-dihydropyridazine-4-carboxylic acid | 2.42 mmol, 0.56 g | CC=1C=C(C(N(N1)C1=CC=CC=C1)=O)C(=O)O | C12H10N2O3
reactant | Oxalyl chloride | 2.90 mmol, 0.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexanedione | 2.90 mmol, 0.33 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.67 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | acetone cyanohydrin | 1 drop | CC(C#N)(O)C | C4H7NO
product | 2-(6-Methyl-3-oxo-2-phenyl-2,3-dihydropyridazine-4-carbonyl)-cyclohexane-1,3-dione | CC=1C=C(C(N(N1)C1=CC=CC=C1)=O)C(=O)C1C(CCCC1=O)=O | C18H16N2O4
